US07547691B2
2-{5-Methyl-2-[2-(4-methylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of 2-{5-methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride, the title compound is synthesized from [2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 2-(4-methylpiperazin-1-yl)-ethylamine and isolated as a yellow solid. ES+(m/z) 451 [M(free base)+H].

reactant | 2-{5-methyl-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride | Cl.Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCCN2CCN(CC2)C
reactant | 2-(2-chloro-5-methylpyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)Cl | C17H14ClN3OS
reactant | 2-(4-methylpiperazin-1-yl)-ethylamine | CN1CCN(CC1)CCN | C7H17N3
product | 2-{5-Methyl-2-[2-(4-methylpiperazin-1-yl)-ethylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2C)NCCN2CCN(CC2)C | InChI=1S/C24H30N6OS.3ClH/c1-16-15-26-24(25-8-9-30-12-10-29(2)11-13-30)28-22(16)21-14-19-18(4-3-5-20(19)32-21)23(31)27-17-6-7-17;;;/h3-5,14-15,17H,6-13H2,1-2H3,(H,27,31)(H,25,26,28);3*1H
